************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: MX4X2
* View Name:     schematic
* Netlisted on:  Jun  4 07:44:32 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    MX4X2
* View Name:    schematic
************************************************************************

.SUBCKT MX4X2 A B C D S0 S1 VDD VSS Y
*.PININFO A:I B:I C:I D:I S0:I S1:I VDD:I VSS:I Y:O
Mmn9 n1 S0 n9 VSS g45n1svt m=1 l=45n w=145n
Mmn6 n7 C VSS VSS g45n1svt m=1 l=45n w=145n
Mmn7 n1 S0b n7 VSS g45n1svt m=1 l=45n w=145n
Mmn4 n5 B VSS VSS g45n1svt m=1 l=45n w=145n
Mmn5 n0 S0 n5 VSS g45n1svt m=1 l=45n w=145n
Mmn3 n0 S0b n3 VSS g45n1svt m=1 l=45n w=145n
Mmn2 n3 A VSS VSS g45n1svt m=1 l=45n w=145n
Mmn12 Y n2 VSS VSS g45n1svt m=1 l=45n w=520n
Mmn1 S1b S1 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn11 n2 S1 n1 VSS g45n1svt m=1 l=45n w=145n
Mmn8 n9 D VSS VSS g45n1svt m=1 l=45n w=145n
Mmn10 n2 S1b n0 VSS g45n1svt m=1 l=45n w=145n
Mmn0 S0b S0 VSS VSS g45n1svt m=1 l=45n w=145n
Mmp9 n1 S0b n10 VDD g45p1svt m=1 l=45n w=215n
Mmp8 n10 D VDD VDD g45p1svt m=1 l=45n w=215n
Mmp7 n1 S0 n8 VDD g45p1svt m=1 l=45n w=215n
Mmp6 n8 C VDD VDD g45p1svt m=1 l=45n w=215n
Mmp5 n0 S0b n6 VDD g45p1svt m=1 l=45n w=215n
Mmp4 n6 B VDD VDD g45p1svt m=1 l=45n w=215n
Mmp3 n0 S0 n4 VDD g45p1svt m=1 l=45n w=215n
Mmp2 n4 A VDD VDD g45p1svt m=1 l=45n w=215n
Mmp12 Y n2 VDD VDD g45p1svt m=1 l=45n w=780n
Mmp0 S0b S0 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp10 n2 S1 n0 VDD g45p1svt m=1 l=45n w=215n
Mmp11 n1 S1b n2 VDD g45p1svt m=1 l=45n w=215n
Mmp1 S1b S1 VDD VDD g45p1svt m=1 l=45n w=215n
.ENDS

